US06960601B2
To a solution of 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-methoxy-N-methyl-1H-imidazole-4-carboxamide (50.0 mg, 0.133 mmol) in 1.5 mL THE was added a 1.0 M solution of 4-fluorophenylmagnesium bromide (0.27 mL, 0.27 mmol) under argon at rt with stirring. The resultant mixture was stirred for 30 minutes and a saturated aqueous solution of NH4Cl was added. The mixture was extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated down in vacuo. The crude product was purified on HPLC to give [2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl](4-fluorophenyl)-methanone as a solid (38.0 mg, 69%): Rf=0.58 (1:1 ethyl acetate/hexanes).

reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-N-methoxy-N-methyl-1H-imidazole-4-carboxamide | 0.133 mmol, 50.0 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N(C)OC)C1=CC=C(C=C1)Cl | C18H15Cl2N3O2
reactant | 4-fluorophenylmagnesium bromide | 0.27 mmol, 0.27 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
product | [2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl](4-fluorophenyl)-methanone | 38.0 mg, 69% | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl | C22H13Cl2FN2O
